US04141995
2-Hydroxy-3-ethylbenzophenone
This compound (44.67 g) was prepared from benzene (172 g, 2.2 mole) and 2-hydroxy-3-ethyl benzoic acid chloride (63.15 g, 0.34 mole), using the same conditions as in Example 4. The b.p. of the compound was 123°-126° C./0.14 mm, ηD22 1.6081, γ max. (film) 1630 cm-1. The same compound was obtained using the method of Example 2.

reactant | benzene | 2.2 mole, 172 g | C1=CC=CC=C1 | C6H6
reactant | 2-hydroxy-3-ethyl benzoic acid chloride | 0.34 mole, 63.15 g | OC1=C(C(=O)Cl)C=CC=C1CC | C9H9ClO2
product | 2-Hydroxy-3-ethylbenzophenone | 44.67 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC=C1CC | C15H14O2
